US04198425
3-Hydroxy-3methyl-4bromo-7-(p-chlorophenyl)-5-heptanolide
The carboxylic acid (2.88 g) prepared by hydrolyzing 3.27 g of ethyl 3-hydroxy-3-methyl-7-(p-chlorophenyl)-4-heptenoate with 4 N sodium hydroxide solution in methanol, was treated with 1.3 g of bromine in an aqueous sodium hydrogen carbonate solution and the reaction mixture was worked up according to the method described in Example 1 (b). The product was purified by a column chromatography using silica gel affording 1.93 g of the desired compound melting at 116°-119° C.

reactant | ethyl 3-hydroxy-3-methyl-7-(p-chlorophenyl)-4-heptenoate | 3.27 g | OC(CC(=O)OCC)(C=CCCC1=CC=C(C=C1)Cl)C | C16H21ClO3
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | bromine | 1.3 g | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
product | 3-Hydroxy-3methyl-4bromo-7-(p-chlorophenyl)-5-heptanolide | OC1(CC(=O)OC(C1Br)CCC1=CC=C(C=C1)Cl)C | C14H16BrClO3
